US08044240B2
Step E: N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide
1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide (97 mg, 0.18 mmol) and 4-methylmorpholine N-oxide (21 mg, 0.18 mmol) were dissolved in THF (8 mL). Osmium tetroxide was added at room temperature (0.018 mmol, 0.13 mL, 4% in H2O) and the reaction mixture was stirred at room temperature for 16 hours. Ethyl acetate was added, and the organic phase was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified over silica gel chromatography (eluants: EtOAc/MeOH) to obtain the titled product (0.80 g, 78%). 1H NMR (CDCl3, 300 MHz): δ 7.38 (dd, J=1.7 & 10.3 Hz, 1H), 7.26 (m, 1H), 7.14 (s, 1H), 6.87 (s, 1H), 6.53 (dd, J=6.8 & 11.4 Hz, 1H), 6.43 (m, 1H), 4.06 (m, 1H), 3.89 (s, 3H), 3.63 (dd, J=3.7 & 11.1 Hz, 1H), 3.49 (dd, J=6.4 & 11.1 Hz, 1H), 2.3 (dd, J=9.7 & 16.1 Hz, 1H), 1.77 (dd, J=1.9 & 16.0 Hz, 1H), 1.37 (m, 1H), 1.25 (m, 1H), 1.21 (m, 2H), 0.86 (m, 2H); m/z=571 [M−1]−.

reactant | 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide | 0.18 mmol, 97 mg | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1OC)F)F)NC1=C(C=C(C=C1)I)F | C19H18F3IN2O3S
reactant | 4-methylmorpholine N-oxide | 0.18 mmol, 21 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 8 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Osmium tetroxide | [Os](=O)(=O)(=O)=O
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide | 0.80 g, 78% | FC=1C(=C(C(=CC1F)OC)NS(=O)(=O)C1(CC1)CC(CO)O)NC1=C(C=C(C=C1)I)F | C19H20F3IN2O5S
